US05627182
5(S)-Amino-4(S),8(R,S)-dihydroxy-2(S),7(S)-diisopropyl-8-[4-methoxy -3-(2-methoxymethoxyethyl)-phenyl]-octanoic acid (N-butyl)-amide
40 mg of 5(S)-azido-4(S),8(R,S)-dihydroxy-2(S),7(S)-diisopropyl-8-[4-methoxy -3-(2-methoxymethoxyethyl)-phenyl]-octanoic acid (N-butyl)-amide are hydrogenated in 10 ml of methanol/acetic acid (9:1) in the presence of 20 mg of 10% Pd/C at room temperature and under normal pressure. The reaction mixture is filtered and concentrated by evaporation. The residue is purified by FC (2.4 g of silcia gel, dichloromethane/methanol =9:1). The title compound is obtained: Rf (dichloromethane/methanol=9:1)=0.17; HPLC Rt =11.44 and 12.63 minutes (diastereoisomeric mixture); FAB-MS (M+H)+ =525.

reactant | 5(S)-azido-4(S),8(R,S)-dihydroxy-2(S),7(S)-diisopropyl-8-[4-methoxy -3-(2-methoxymethoxyethyl)-phenyl]-octanoic acid (N-butyl)-amide | 40 mg | C(CCC)NC([C@@H](C[C@@H]([C@H](C[C@H](C(C1=CC(=C(C=C1)OC)CCOCOC)O)C(C)C)N=[N+]=[N-])O)C(C)C)=O | C29H50N4O6
solvent | methanol acetic acid | 10 ml | CO.C(C)(=O)O
catalyst | Pd/C | 20 mg | [Pd] | Pd
product | 5(S)-Amino-4(S),8(R,S)-dihydroxy-2(S),7(S)-diisopropyl-8-[4-methoxy -3-(2-methoxymethoxyethyl)-phenyl]-octanoic acid (N-butyl)-amide | C(CCC)NC([C@@H](C[C@@H]([C@H](C[C@H](C(C1=CC(=C(C=C1)OC)CCOCOC)O)C(C)C)N)O)C(C)C)=O | C29H52N2O6
